US06825198B2
Preparation of Intermediate 4-[2-(3,5-Difluoro-benzyloxy)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (I-1b):
3,5-Difluorobenzyl alcohol (227.5 μL, 2.01 mmol) was dissolved into 15 mL of anhydrous tetrahydrofuran and treated with sodium hydride (80.3 mg, 60% dispersion in mineral oil, 2.01 mmol). This was stirred under nitrogen for 15 minutes at ambient temperature, then the reaction was treated with 4-(2-chloro-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester (I-1a) (500 mg, 1.67 mmol) in one portion. The resultant mixture was refluxed under nitrogen for 4 hours. After cooling to room temperature, the reaction was poured into water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine (20 mL), then dried over sodium sulfate, filtered, and concentrated. The residue was purified by column chromatography (silica gel, 1:1 ethyl acetate:hexanes) to afford 605.2 mg of the title product (I-1b).

reactant | 3,5-Difluorobenzyl alcohol | 2.01 mmol, 227.5 μL | FC=1C=C(CO)C=C(C1)F | C7H6F2O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | sodium hydride | 2.01 mmol, 80.3 mg | [H-].[Na+]
reactant | 4-(2-chloro-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.67 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)Cl | C13H19ClN4O2
solvent | water | 50 mL | O | H2O
product | 4-[2-(3,5-Difluoro-benzyloxy)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 605.2 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)OCC1=CC(=CC(=C1)F)F | C20H24F2N4O3
